US06429207B1
α,α-Dimethyl-2-chlorophenethylamine
A mixture of Raney nickel (50% by weight in water; 2.3 g) and 1-(2-chlorophenyl)-2-methyl-2-nitropropane (2.35 g, 11 mmol) in ethanol (35 mL) was shaken under hydrogen gas (60 psig) for 3.5 h. The reaction mixture was then filtered, and the filtrate was rotary evaporated. This provided 2.3 g (110%) of α,α-dimethyl-2-chlorophenethylamine.

reactant | 1-(2-chlorophenyl)-2-methyl-2-nitropropane | 11 mmol, 2.35 g | ClC1=C(C=CC=C1)CC(C)([N+](=O)[O-])C | C10H12ClNO2
catalyst | Raney nickel | 2.3 g | [Ni] | Ni
solvent | ethanol | 35 mL | C(C)O | C2H6O
product | α,α-Dimethyl-2-chlorophenethylamine | CC(CC1=C(C=CC=C1)Cl)(C)N | C10H14ClN
